US07977340B2
A stirred mixture of 2-Amino-5-pyridin-3-yl-benzothiazole-7-carboxylic acid methyl ester (20 mg, 0.07 mmol), ethyl isocyanate (0.03 ml, 0.35 mmol) and dibutyltindiacetate (2 drops) in anhydrous 1,4-dioxane (1.5 ml) was heated by microwave irradiation in a CEM Discover reactor at 125° C. for 1 h. After cooling to ambient temperature, the 2-(3-Ethyl-ureido)-5-pyridin-3-yl-benzothiazole-7-carboxylic acid methyl ester was isolated by Preparative HPLC as a white solid (7.4 mg, 30%).

reactant | 2-Amino-5-pyridin-3-yl-benzothiazole-7-carboxylic acid methyl ester | 0.07 mmol, 20 mg | COC(=O)C1=CC(=CC=2N=C(SC21)N)C=2C=NC=CC2 | C14H11N3O2S
reactant | ethyl isocyanate | 0.35 mmol, 0.03 ml | C(C)N=C=O | C3H5NO
solvent | 1,4-dioxane | 1.5 ml | O1CCOCC1 | C4H8O2
product | 2-(3-Ethyl-ureido)-5-pyridin-3-yl-benzothiazole-7-carboxylic acid methyl ester | COC(=O)C1=CC(=CC=2N=C(SC21)NC(=O)NCC)C=2C=NC=CC2 | C17H16N4O3S
